US04925838
A solution of (2S,4R)-4-(t-butyldimethylsilyloxy)-2-(2-chloropropionyl)aminomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (18.4 g), potassium cyanate (14.9 g) and tetrabutylammonium iodide (13.6 g) in N,N-dimethylformamide (180 ml) was stirred at 100°-110° C. for 3 hours. The reaction mixture was poured into water (300 ml) and extracted twice with ethyl acetate (200 ml). The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was dissolved in a mixture of methanol (150 ml) and concentrated hydrochloric acid (6.1 ml). The solution was stirred at ambient temperature for 2 hours and evaporated in vacuo. The resulting residue was chromatographed on silica gel (250 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-hydroxy-2-(4-methyl-2,5-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (8.16 g).

reactant | (2S,4R)-4-(t-butyldimethylsilyloxy)-2-(2-chloropropionyl)aminomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 18.4 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CNC(C(C)Cl)=O | C22H34ClN3O6Si
reactant | potassium cyanate | 14.9 g | [O-]C#N.[K+]
reactant | water | 300 ml | O | H2O
catalyst | tetrabutylammonium iodide | 13.6 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-4-hydroxy-2-(4-methyl-2,5-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 8.16 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NC(C1=O)C)=O | C17H20N4O7
